US05470845
A. 5-Methyl-9-phenyl-non-4-en-1-ol
To a solution of 1.5 g (4.26 mmol) of the Example 35, Part B iodide in 10 mL of THF at 0° C. was added 12.9 mL (25.8 mmol) of benzylmagnesium chloride in THF (purchased from Aldrich Chemical) followed by 10 mg (catalyst) of copper (I) iodide. The reaction was stirred at 0° C. for 1 h, and at room temperature for 3 h. The reaction was diluted with ether and aqueous NH4Cl solution. The organic fraction was washed with water and brine, dried (MgSO4) and concentrated to provide 2.70 g of a crude oil. The oil was purified by flash chromatography (250 g of silica gel) eluting with 8:2 ethyl acetate/hexane to provide 1.10 g (99%) of title compound as a colorless oil.

reactant | iodide | [I-]
reactant | benzylmagnesium chloride | 25.8 mmol, 12.9 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | NH4Cl | [NH4+].[Cl-]
catalyst | copper (I) iodide | 10 mg | [Cu]I
product | 5-Methyl-9-phenyl-non-4-en-1-ol | 1.10 g, 99% | CC(=CCCCO)CCCCC1=CC=CC=C1 | C16H24O
